US05104874
Benzylamino-5,6-dimethyl-1,4-benzoquinone
To a stirred solution of the 3-acetyl-2-anilino-5,6-dimethyl-1,4-benzoquinone (700 mg, 2.6 mmol) in tetrahydrofuran-water (5:4, 12.5 mL) was added sodium borohydride (197 mg, 5.2 mmol) at room temperature. The mixture was stirred at room temperature for 10 minutes. 1N hydrochloric acid (1 mL) and ethyl acetate (50 mL) were added and the mixture was stirred for 10 minutes. The organic layer was washed with sodium bicarbonate solution and brine. The solution was dried over magnesium sulfate and concentrated in vacuo to give pale red oil. This product was dissolved in methanol (7 mL). To the solution was added sodium periodate in water at room temperature. The mixture was stirred for 5 minutes then extracted with ethyl acetate (50 mL) and washed with brine (10 mL×4). The solution was dried over magnesium sulfate and concentrated in vacuo to give a dark red oil. This was subjected to a silica gel column eluted with ethyl acetate hexane (1:3.5). The desired red color fraction was crystallized from hexane-diisopropyl ether to give red powder of the title compound (380 mg, 54% yield). Mp 101.2°-101.6° C.

reactant | 3-acetyl-2-anilino-5,6-dimethyl-1,4-benzoquinone | 2.6 mmol, 700 mg | C(C)(=O)C1=C(C(C(=C(C1=O)C)C)=O)NC1=CC=CC=C1 | C16H15NO3
reactant | sodium borohydride | 5.2 mmol, 197 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1N, 1 mL | Cl | ClH
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | tetrahydrofuran water | 12.5 mL | O1CCCC1.O
solvent | methanol | 7 mL | CO | CH4O
solvent | water | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | Benzylamino-5,6-dimethyl-1,4-benzoquinone | 380 mg, 54% yield | C(C1=CC=CC=C1)NC=1C(C(=C(C(C1)=O)C)C)=O | C15H15NO2
